US05227467
Step 3: 4-fluoro-3(R,S)-L-Valyl-N-Methyl-L-Leucyl-L-alanine benzyl ester
A solution of 1.75 g (0.0033 mole) of Boc-4-fluoro-3(R,S)-L-Valyl-N-Methyl-L-Leucyl-L-Alanine benzyl ester in 17 ml of dry methylene chloride was stirred and cooled at -10° C. as 17 ml of trifluoroacetic acid, which was previously cooled at the same temperature, was added. The reaction was stirred and kept at -5° C. for 16 hours, then poured carefully with stirring into a mixture of 21 g of sodium bicarbonate, ice, and 100 ml of methylene chloride. After 5 minutes the organic layer was separated and washed with 3×30 ml of saturated sodium bicarbonate solution. The methylene chloride layer was dried over magnesium sulfate, and evaporated in vacuo to give 1.38 g of a stiff oil as the product. The yield was 99% of theory and the FAB m.s. showed a molecular ion peak at 424.

reactant | Boc-4-fluoro-3(R,S)-L-Valyl-N-Methyl-L-Leucyl-L-Alanine benzyl ester | 0.0033 mole, 1.75 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C(=O)OC(C)(C)C)C(C(C)(C)F)C([C@@H](N)C(C)C)=O)=O)C)=O | C27H42FN3O6
reactant | trifluoroacetic acid | 17 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 21 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-fluoro-3(R,S)-L-Valyl-N-Methyl-L-Leucyl-L-alanine benzyl ester | 1.38 g, yield was 99% | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC)C(C(C)(C)F)C([C@@H](N)C(C)C)=O)=O)C)=O | C22H34FN3O4
